US04631281
30.0 g of 4-(2,3-epoxypropoxy)-phenylacetone and 25.6 g of 2-methoxyphenyl-piperazine are heated under reflux in 300 ml of ethanol for 3 hours. The solvent is then distilled off. The residue is made to crystallise with ethyl acetate/hexane. 32.5 g of 1-[4-(propan-2-on-yl)-phenoxy]-3-[4-(2-methoxyphenyl)-piperazin-1-yl]-propan-2-ol are obtained.

reactant | 4-(2,3-epoxypropoxy)-phenylacetone | 30.0 g | O1C(COC2=CC=C(C=C2)CC(C)=O)C1 | C12H14O3
reactant | 2-methoxyphenyl-piperazine | 25.6 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 1-[4-(propan-2-on-yl)-phenoxy]-3-[4-(2-methoxyphenyl)-piperazin-1-yl]-propan-2-ol | 32.5 g | C(C(C)=O)C1=CC=C(OCC(CN2CCN(CC2)C2=C(C=CC=C2)OC)O)C=C1 | C23H30N2O4
